US06589970B2
Step 3: 2-Butyl-benzofuran-3-carboxylic acid [5-(4-chloro-phenyl)-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide.
A mixture of 2-butyl-benzofuran-3-carboxylic acid [5-(4-chloro-phenyl)-6-cyanomethoxy-naphthalen-2-ylmethyl]-amide (152 mg, 0.29 mmol), prepared in the previous step, sodium azide (59 mg, 0.90 mmol) and ammonium chloride (85 mg, 1.58 mmol) in 10 mL of DMF was stirred under nitrogen at 100° C. for 24 h (overnight). If starting material remains additional sodium azide and ammonium chloride are added and the stirring continued at 100° C. until the reaction is complete. The reaction was diluted with 50 mL of water, made basic by the addition of 1 N NaOH and extracted multiple times with ethyl acetate. The aqueous layer was acidified. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (149 mg, 91%) as a white solid, mp 208-211° C.

reactant | 2-butyl-benzofuran-3-carboxylic acid [5-(4-chloro-phenyl)-6-cyanomethoxy-naphthalen-2-ylmethyl]-amide | 0.29 mmol, 152 mg | ClC1=CC=C(C=C1)C1=C2C=CC(=CC2=CC=C1OCC#N)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C32H27ClN2O3
reactant | sodium azide | 0.90 mmol, 59 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.58 mmol, 85 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-Butyl-benzofuran-3-carboxylic acid [5-(4-chloro-phenyl)-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide | 149 mg, 91% | ClC1=CC=C(C=C1)C1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C32H28ClN5O3
